US03987047
3-Carbamoyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline
3.3 gm (11.6 millimols) of 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline were reacted with 0.04 gm (11.6 millimols) of potassium cyanate at room temperature in 50 ml of water. After 4 to 6 hours, the reaction product crystallized out. Yield: 1 gm (34% of theory); m.p. 215° C (decomp.).

reactant | 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | 11.6 millimols, 3.3 gm | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | potassium cyanate | 11.6 millimols, 0.04 gm | [O-]C#N.[K+]
solvent | water | 50 ml | O | H2O
product | 3-Carbamoyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | C(N)(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C | C15H17N3O
